US07951810B2
Step a: 4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine
Phenethyl magnesium bromide (0.5 M solution in THF, 12 mL, 6.15 mmol) was added dropwise to a stirred solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.210 g, 1.37 mmol) and Fe(acac)3 (0.1 g 0.273 mmol) in THF (5.0 mL) under Ar. The resulting reaction mixture was stirred at r.t. for 8 h. The mixture was poured onto a mixture of ice (10 mL) and NH4Cl (0.5 g) and the product was extracted with CHCl3. The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (0 to 10% MeOH/DCM) to afford the title compound (0.166 g, 54%).

reactant | Phenethyl magnesium bromide | 6.15 mmol, 0.5 M, 12 mL | C(CC1=CC=CC=C1)[Mg]Br
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 1.37 mmol, 0.210 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | NH4Cl | 0.5 g | [NH4+].[Cl-]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.166 g, 54% | C1(=CC=CC=C1)CCC=1C2=C(N=CN1)NC=C2 | C14H13N3
